US08957025B2
2,6-Dimethyl-L-tyrosyl-N-[(2S)-2-amino-3-phenylpropyl]-D-alaninamide
N-(tert-butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}-D-alaninamide (6.1 g, 9.1 mmol) was dissolved in 25 mL dichloromethane and 25 mL TFA and stirred at room temperature for 3 h under a nitrogen atmosphere. The mixture was evaporated under reduced pressure to give a yellow gum. The gum was dissolved in 20 mL methanol and split into 4 equal portions. Each was loaded onto a separate 10 g SCX-2 cartridge, pre-wetted with methanol. Each cartridge was flushed with 50 mL of methanol to remove non-basic impurities, and then with 80 mL of 2N ammonia solution in methanol to elute the desired product. Fractions containing product were concentrated in vacuo to give a pale yellow gum. This was heated with a hot air gun and placed under vacuum (15 mm Hg) overnight to give 3.7 g (100%) of the title compound as a stiff white foam.

reactant | N-(tert-butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}-D-alaninamide | 9.1 mmol, 6.1 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NC[C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C33H48N4O7
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 2,6-Dimethyl-L-tyrosyl-N-[(2S)-2-amino-3-phenylpropyl]-D-alaninamide | 3.7 g, 100% | CC1=C(C[C@H](N)C(=O)N[C@H](C)C(=O)NC[C@H](CC2=CC=CC=C2)N)C(=CC(=C1)O)C | C23H32N4O3
